US06566535B1
Under an argon atmosphere, 2-fluorobenzaldehyde (5 g) was dissolved in 15 ml of dimethylformamide and potassium carbonate (8.35 g) was added. Ethyl 4-mercaptobutyrate (8.6 ml) was added at room temperature and was stirred at room temperature for 14 hours. After the addition of 100 ml of ethyl acetate, the mixture was washed with 50 ml of water twice, 50 ml of a 0.5N hydrochloric acid, and 50 ml of water three times. After drying with anhydrous sodium sulfate, the mixture was concentrated. The concentrated matter was subjected to silica gel chromatography (hexane/ethyl acetate=4/1) purification. The resulting effective fractions were concentrated to yield ethyl 4-(2-formylphenylthio)butyrate (6.86 g, Yield 67%).

reactant | 2-fluorobenzaldehyde | 5 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | potassium carbonate | 8.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl 4-mercaptobutyrate | 8.6 ml | SCCCC(=O)OCC | C6H12O2S
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | ethyl 4-(2-formylphenylthio)butyrate | 6.86 g, Yield 67% | C(=O)C1=C(C=CC=C1)SCCCC(=O)OCC | C13H16O3S
